US04150035
Preparation of cis and trans-5,6,7,8-tetrahydro-8-hydroxy-4H-cyclohepta[b]thiophen-4-amine
A sample of a cis/trans mixture of N-(5,6,7,8-tetrahydro-8-hydroxy-4H-cyclohepta[b]thien-4-yl)acetamide is added to 2 equivalents of KOH in water/ethylene glycol mixture. The mixture is heated at reflux under nitrogen atmosphere until starting material is no longer detectable by thin-layer chromatography. The mixture is cooled, diluted with water and extracted exhaustively with CHCl3. The chloroform extract is added to an equal volume of water and acidified with hydrochloric acid until the mixture is at pH 2. The mixture is then extracted with CHCl3 and then the remaining aqueous solution is made alkaline with NaOH solution. The alkaline solution is then extracted with CHCl3 exhaustively and the extracts are dried over MgSO4 and evaporated to dryness to afford the title compound.

reactant | N-(5,6,7,8-tetrahydro-8-hydroxy-4H-cyclohepta[b]thien-4-yl)acetamide | OC1CCCC(C2=C1SC=C2)NC(C)=O | C11H15NO2S
reactant | KOH | 2 equivalents | [OH-].[K+]
solvent | water ethylene glycol | O.C(CO)O
solvent | water | O | H2O
product | trans-5,6,7,8-tetrahydro-8-hydroxy-4H-cyclohepta[b]thiophen-4-amine | O[C@@H]1CCC[C@H](C2=C1SC=C2)N | C9H13NOS
